US05292732
3-(1,3-Dioxolan-2-yl)-4'-methoxypropiophenone (38.8 g) was dissolved in 100 ml of acetic acid and added under argon and while stirring to a solution of 33.5 g of N-acetylethylene-diamine in 500 ml of acetic acid. The reaction solution was heated to reflux overnight, the acetic acid was subsequently removed in a vacuum. The residue was taken up in 500 ml of methylene chloride and washed with a mixture of 200 ml of saturated sodium hydrogen carbonate solution and 400 ml of 2N sodium hydroxide solution. The aqueous phase was extracted three times with 100 ml of methylene chloride each time, the organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 49.6 g of brown oil, was chromatographed on 500 g of silica gel with ethyl acetate as the eluent. 27.8 g (66%) of N-[2-[2-(p-methoxyphenyl)-pyrrol-1-yl]ethyl]acetamide were isolated as a yellow-brown oil. MS: m/e=258 (M+).

reactant | 3-(1,3-Dioxolan-2-yl)-4'-methoxypropiophenone | 38.8 g | O1C(OCC1)CCC(=O)C1=CC=C(C=C1)OC | C13H16O4
reactant | N-acetylethylene-diamine | 33.5 g | C(C)(=O)NCCN | C4H10N2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | N-[2-[2-(p-methoxyphenyl)-pyrrol-1-yl]ethyl]acetamide | 27.8 g, 66% | COC1=CC=C(C=C1)C=1N(C=CC1)CCNC(C)=O | C15H18N2O2
